US08349849B2
6-Benzyloxy-2-bromo-3,4-dihydro-2H-naphthalen-1-one (32.9 g, 0.0964 mol) was dissolved in ether (200 mL, 2 mol) and methanol (30.0 mL, 0.740 mol), cooled with ice bath to internal temperature of 3° C. Sodium tetrahydroborate (1.82 g, 0.0482 mol) was added portionwise over 15 min at 3° C.-8° C. (internal). The mixture was stirred at 2-5° C. for 1 hour. Acetic acid (2.74 mL, 0.0482 mol) was added and the mixture was quenched with water, extracted with EtOAc (100 mL), washed with water (2×), brine, dried over anhydrous sodium sulfate, filtered, and concentrated to give a crude intermediate, 6-(benzyloxy)-2-bromo-1,2,3,4-tetrahydronaphthalen-1-ol (29.5 g).

reactant | 6-Benzyloxy-2-bromo-3,4-dihydro-2H-naphthalen-1-one | 0.0964 mol, 32.9 g | C(C1=CC=CC=C1)OC=1C=C2CCC(C(C2=CC1)=O)Br | C17H15BrO2
reactant | ether | 2 mol, 200 mL | CCOCC | C4H10O
reactant | methanol | 0.740 mol, 30.0 mL | CO | CH4O
reactant | Sodium tetrahydroborate | 0.0482 mol, 1.82 g | [BH4-].[Na+]
reactant | Acetic acid | 0.0482 mol, 2.74 mL | C(C)(=O)O | C2H4O2
product | 6-(benzyloxy)-2-bromo-1,2,3,4-tetrahydronaphthalen-1-ol | 29.5 g | C(C1=CC=CC=C1)OC=1C=C2CCC(C(C2=CC1)O)Br | C17H17BrO2
